US04071530
1. 4-Carbomethoxy-1-isopropyl-pyrrolidone (II)
In the course of 30 minutes, 59.1 g (1 mol) of isopropyl amine were added dropwise to 158 g (1 mol) of itaconic acid methyl ester in 120 ml of diethyl ether. When the slightly exothermic reaction had finished, the reaction mixture was allowed to stand for 24 hours at room temperature. Then the solvent was removed in vacuo and the residue was subjected to fractionated vacuum distillation. boiling point: 95-98° C/0.05 mm Hg; nD20 : 1.4680

reactant | isopropyl amine | 1 mol, 59.1 g | C(C)(C)N | C3H9N
reactant | itaconic acid methyl ester | 1 mol, 158 g | COC(C(=C)CC(=O)O)=O | C6H8O4
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 4-Carbomethoxy-1-isopropyl-pyrrolidone | C(=O)(OC)C1CC(N(C1)C(C)C)=O | C9H15NO3
